US06326386B1
3-[(3-Chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid
2M Aqueous sodium hydroxide (4.5 ml) was added to a stirred solution of 3-[(3-chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid methyl ester (1.50 g) in 1,4-dioxan (30 ml). 2M aqueous hydrochloric acid (4.5 ml) was added after 20 h. The reaction mixture was evaporated and the residue partitioned between ethyl acetate and water. The aqueous layer was removed and the organic phase was dried with brine and over sodium sulphate and then concentrated under reduced pressure to give the title compound (1.41 g) as a brown solid.

reactant | sodium hydroxide | 2M, 4.5 ml | [OH-].[Na+]
reactant | 3-[(3-chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid methyl ester | 1.50 g | COC(CCN(C(C)C)C(C1=CC(=CC(=C1)OC)Cl)=O)=O | C15H20ClNO4
reactant | hydrochloric acid | 2M, 4.5 ml | Cl | ClH
solvent | 1,4-dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 3-[(3-Chloro-5-methoxy-benzoyl)-isopropyl-amino]-propionic acid | 1.41 g | ClC=1C=C(C(=O)N(CCC(=O)O)C(C)C)C=C(C1)OC | C14H18ClNO4
